US07662841B2
Methyl isocyanoacetate (0.63 ml, 6.9 mmol) was gradually added dropwise to a suspension of sodium hydride (60% in mineral oil, 346 mg, 8.6 mmol) in N,N-dimethylformamide (5 ml) in an argon atmosphere under ice cooling, and the mixture was stirred at the same temperature for 2 hr. This solution was added dropwise to a solution of 2,5-dibromothiazole (1.0 g, 4.1 mmol) in tetrahydrofuran (10 ml) cooled to −20° C. (brine/ice water) through a cannula over a period of 15 min, and, while allowing the temperature to rise to about 0° C., the mixture was stirred for 2 hr. After the completion of the reaction, saturated brine was added thereto, and the mixture was extracted with dichloromethane (20 ml×5). The organic layer was dried over anhydrous sodium sulfate, and the solvent was removed by distillation under the reduced pressure. The residue was washed with ethyl acetate to give methyl 2-bromoimidazo[5,1-b]thiazole-7-carboxylate (910 mg, 85%) as a white solid.

reactant | Methyl isocyanoacetate | 6.9 mmol, 0.63 ml | [N+](#[C-])CC(=O)OC | C4H5NO2
reactant | sodium hydride | 8.6 mmol, 346 mg | [H-].[Na+]
reactant | 2,5-dibromothiazole | 4.1 mmol, 1.0 g | BrC=1SC(=CN1)Br | C3HBr2NS
solvent | N,N-dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | brine | [Cl-].[Na+].O
product | methyl 2-bromoimidazo[5,1-b]thiazole-7-carboxylate | 910 mg, 85% | BrC1=CN2C(S1)=C(N=C2)C(=O)OC | C7H5BrN2O2S
